US05256824
To a solution of 5,5-diphenyl-2-cyclopenten-1-ol (0.20 g) in N,N-dimethylformamide (1 ml) were added methanesulfonyl chloride (0.35 ml) and triethylamine (0.60 ml) at 5° to 10° C. After being stirred for 1 hour, t-butylamine (1.78 ml) was added to the reaction mixture at 5° to 12° C. The reaction mixture was stirred for 3 days at room temperature. To the reaction mixture were added water and ethyl acetate. The organic layer was separated, washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel with a mixture of chloroform and methanol as an eluent to give N-t-butyl-4,4-diphenyl-2-cyclopentenylamine (0.11 g).

reactant | 5,5-diphenyl-2-cyclopenten-1-ol | 0.20 g | C1(=CC=CC=C1)C1(CC=CC1O)C1=CC=CC=C1 | C17H16O
reactant | methanesulfonyl chloride | 0.35 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.60 ml | C(C)N(CC)CC | C6H15N
reactant | t-butylamine | 1.78 ml | C(C)(C)(C)N | C4H11N
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | N-t-butyl-4,4-diphenyl-2-cyclopentenylamine | 0.11 g | C(C)(C)(C)NC1C=CC(C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H25N
